Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest Pressure and Rapid Irregular Pulse
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old man with history of paroxysmal afib, 
prostate cancer on active surveillance, neuropathy, postural 
tachycardia, and sleep apnea who presented with an acute episode 
of mild chest tightness, palpitations, and generalized malaise 
today. He reports that he exercised for about one hour in the 
morning and was feeling well afterwards when he suddenly began 
to feel ill with palpitations, generalized weakness and chest 
tightness. While the palpitations and weakness were 
characteristic of prior episode of atrial fibrillation, he had 
never experienced chest tightness or shortness of breath in the 
past and was very concerned about these symptoms. Of note, he 
reports about ___ episodes of symptomatic atrial fibrillation 
over the past decade.  
 
 On arrival to the ED, he was found to be in atrial fibrillation 
with a HR of 157. Initial vitals were: 97.8 157 128/79 20 98% on 
RA. Labs included a negative Troponin X 1, Cr 1.5 (baseline 
1.2), INR 1 and UA with few bacteria. Imaging with a CXR showed 
no acute intrathoracic process. He received 1L NS IVF X 2, 
Diltiazem 20mg IV X 2 and 30mg PO X 1. His rate initially 
decreased from 157 to 80 with 20mg of IV Diltiazem but then 
increased several hours later to the 140s and again responded to 
additional Diltiazem. Vitals on transfer were as follows:  
 On the floor, he relates the history above but says that he 
feels much improved at present. He denies weakness, dizziness, 
malaise, chest pain or pressure, palpitations, nausea, vomiting 
and diarrhea as well as lower extremity swelling.  
 REVIEW OF SYSTEMS: As above, reports episode of malaise, 
palpitations, nausea and chest tightness earlier today which has 
now resolved. Denies headaches, dizziness, visual disturbance  
 
Past Medical History:
NEUROPATHY NOS  
 HYPERTENSION  
 PROSTATE CANCER  
 ERECTILE DYSFUNCTION  
 POSTURAL TACHYCARDIA  
 PATENT FORAMEN OVALE  
 SEBORRHEIC KERATOSIS  
 SLEEP APNEA  
 LOW BACK PAIN  
 XEROSIS CUTIS  
 H/O PROSTATITIS  
 H/O PAROXYSMAL ATRIAL FIBRILLATION  
 H/O OPTIC NEUROPATHY  

 
Social History:
___
Family History:
Father "lymphoma of stomach" at age ___. Mother had atrial 
fibrillation and stroke. PGF had stroke. No family history of 
early MI, arrhythmia, cardiomyopathies, or sudden cardiac death.
 
Physical Exam:
Discharge Exam
------------------
VITALS: afebrile 145/82 88 18 99%RA  HR in ___ on telemetry
 GEN: well-appearing and in NAD, lying in bed  
 HEENT: NC/AT, no scleral icterus, no lymphadenopathy 
appreciated  
 NECK: supple  
 CV: regular rate and rhythm, no murmurs appreciated  
 LUNGS: clear to auscultation without wheezes or crackles  
 ABDOMEN: non-tender, non-distended, normal bowel sounds  
 EXT: no ___ edema, warm and well-perfused  
 NEURO: AA+O X 3, pleasant and conversant, CN grossly intact
 
Pertinent Results:
Labs
-------------------
___ 03:32PM BLOOD WBC-9.8 RBC-4.74 Hgb-13.8 Hct-41.5 MCV-88 
MCH-29.1 MCHC-33.3 RDW-12.7 RDWSD-40.1 Plt ___
___ 07:00AM BLOOD WBC-6.5 RBC-4.09* Hgb-11.7* Hct-36.6* 
MCV-90 MCH-28.6 MCHC-32.0 RDW-13.0 RDWSD-42.5 Plt ___
___ 03:32PM BLOOD Neuts-56.7 ___ Monos-10.0 Eos-1.4 
Baso-0.4 Im ___ AbsNeut-5.54 AbsLymp-3.05 AbsMono-0.98* 
AbsEos-0.14 AbsBaso-0.04
___ 03:32PM BLOOD Glucose-106* UreaN-28* Creat-1.5* Na-139 
K-4.3 Cl-105 HCO3-25 AnGap-13
___ 07:00AM BLOOD Glucose-89 UreaN-23* Creat-1.2 Na-141 
K-4.0 Cl-108 HCO3-24 AnGap-13

___ 03:32PM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD cTropnT-<0.01

Studies
EKG ___ 
Atrial fibrillation with rapid ventricular response. Compared to 
the previous tracing of ___ rate and rhythm have changed. 
  Intervals    
Rate PR QRS   QT QTc (___)   
153  95 ___ 

see OMR for tracings 

CXR ___ 
FINDINGS:  
PA and lateral views of the chest provided. There is no focal 
consolidation, effusion, or pneumothorax. The cardiomediastinal 
silhouette is normal. Imaged osseous structures are intact.  No 
free air below the right hemidiaphragm is seen. 
  
IMPRESSION:    
No acute intrathoracic process. 
 
Brief Hospital Course:
___ history of paroxysmal afib with very infrequent symptomatic 
episodes, prostate cancer on active surveillance, neuropathy, 
postural tachycardia, and sleep apnea who presented with an 
acute episode of mild chest tightness, palpitations, and 
generalized malaise. Patient was found to be in afib with RVR to 
150s, converted to sinus in the ED after receiving IV diltiazem 
20mg x 2 and PO 30mg diltiazem x 1. No ischemic changes on EKG, 
troponin negative x 2. Patient was monitored overnight and 
remained in sinus rhythm, no other events on tele, 
hemodynamically stable. 

Transitional Issues
-Given CHADS score 1, CHADS-Vasc of 2 would recommend starting 
on anticoagulation. Starting Xarelto was discussed however 
patient was hesistant given his concomitant use of NSAIDs for 
his neuropathic pain and risk of bleeding. He was advised to 
discuss initiation of Xarelto with his primary cardiologist. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Zolpidem Tartrate 10 mg PO QHS 
3. Gabapentin 600 mg PO QAM 
4. Gabapentin 600 mg PO QPM 
5. Gabapentin 900 mg PO QHS 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Aspirin 325 mg PO DAILY 
8. Ibuprofen ___ mg PO DAILY 

 
Discharge Medications:
1. Gabapentin 600 mg PO QAM 
2. Losartan Potassium 50 mg PO DAILY 
3. Zolpidem Tartrate 10 mg PO QHS 
4. Aspirin 325 mg PO DAILY 
5. Gabapentin 600 mg PO QPM 
6. Gabapentin 900 mg PO QHS 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Ibuprofen ___ mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Afib with RVR
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after going into an abnormal heart 
rhythm (atrial fibrillation) with rapid heart rates. You were 
treated with medications to control your heart rates. Given your 
CHADs score, we discussed the risks and benefits of starting 
anticoagulation with Xarelto. You expressed some hesitancy with 
starting this medication. We recommend that you speak with your 
cardiologist about starting this medication.

Please continue to take your other medications as prescribed.

We wish you the best, 
___ cardiology team. 
 
Followup Instructions:
___